Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Vicodin / Percodan
 
Attending: ___.
 
Chief Complaint:
Fall, found to have small SAH and left humerus fx at OSH

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ s/p fall at home with headstrike and LOC.  Husband brought 
patient to ___, where she was evaluated and found to have small 
SAH and left humerus fracture.  A small laceration lateral to 
left orbit was closed with steri strips at ___.  She is not 
anticoagulated.  She was transferred to ___ due to ___ lacking
overnight neurosurgery coverage.  She was evaluated by ___ in 
ED, they rec'd NTD, no repeat imaging or Keppra.  Ortho 
evaluated left humerus fracture, non-operative management 
(currently in sling).  Trauma consult for multiple injuries 
after trauma.

 
Past Medical History:
Past Medical History: hypothyroid, hypertension, depression

Past Surgical History: left rotator cuff repair, TAH-BSO,
bilateral breast reduction, "left hand surgery" after fall

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Vitals: T: 98.2   BP:  144/73   HR: 67   RR: 14  O2 Sat: 97% RA
GEN: A&O x 3, NAD, GCS 15
HEENT: No scleral icterus, mucus membranes moist.  1cm 
laceration
lateral to left orbit closed with steri-strip.  Rest of head
AT/NC, no other laceration or hematoma appreciated.  No cervical
spine tenderness on palpation, full ROM.
CV: RRR, No M/G/R
PULM: non-labored respirations
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused, palp DP b/L

Discharge Physical Exam:
VS: T: 98.4 BP: 128/78 HR: 59 RR: 16 O2: 93% RA 
GEN: A+Ox3, NAD
HEENT: Normocephalic, small left orbit laceration with 
steri-strip
CV: RRR
PULM: CTA b/l
ABD: soft, mildly distended, non-tender to palpation. No rebound 
or guarding
EXT: LUE in sling
 
Pertinent Results:
IMAGING:

___: Left Femur x-ray:
No fracture or dislocation.

___: CT Head non-contrast:
Evolution/redistribution of very small volume subarachnoid 
hemorrhage, in the left sylvian fissure and parietal sulci.  No 
new or increasing hemorrhage. 

OSH: Left upper extremity plain film: 
Left humerus fracture

LABS:

___ 09:07AM   GLUCOSE-102* UREA N-13 CREAT-0.7 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-27 ANION GAP-11
___ 09:07AM   CALCIUM-9.2 PHOSPHATE-4.4 MAGNESIUM-2.2
___ 09:07AM   WBC-6.8 RBC-3.79* HGB-12.1 HCT-36.2 MCV-96 
MCH-31.9 MCHC-33.4 RDW-13.0 RDWSD-45.7
___ 09:07AM   PLT COUNT-246
___ 02:47AM   GLUCOSE-126* UREA N-14 CREAT-0.7 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-28 ANION GAP-9*
___ 02:47AM   CALCIUM-9.3 PHOSPHATE-4.3 MAGNESIUM-2.1
___ 02:47AM   WBC-9.0 RBC-3.82* HGB-12.2 HCT-36.1 MCV-95 
MCH-31.9 MCHC-33.8 RDW-12.9 RDWSD-44.5
___ 02:47AM   NEUTS-71.0 LYMPHS-18.3* MONOS-8.4 EOS-0.9* 
BASOS-0.4 NUC RBCS-0.2* IM ___ AbsNeut-6.40* AbsLymp-1.65 
AbsMono-0.76 AbsEos-0.08 AbsBaso-0.04
___ 02:47AM   PLT COUNT-259
___ 02:47AM   ___ PTT-26.7 ___
___ 01:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-SM*
___ 01:30AM URINE  RBC-<1 WBC-6* BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 01:30AM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
Ms. ___ is a ___ s/p fall at home with headstrike and LOC.  
She was initially brought to ___ and she was found to have a 
small SAH and left humerus fracture.  A small laceration to the 
left lateral orbit was closed with steri strips at ___.  She was 
transferred to ___ due to ___ lacking overnight neurosurgery 
coverage.  At ___, she was evaluated by Neurosurgery and no 
intervention was warranted.  They recommended holding 
subcutaneous heparin for 24 hours.  Orthopedic Surgery was 
consulted for her left humerus fracture, and they recommended 
non-operative management and she was placed in a sling.  The 
patient was admitted to the Trauma/Acute Care Surgery service 
for pain control and Physical Therapy was consulted. 

The patient remained stable from a neurological, cardiopulmonary 
and hemodynamic standpoint.  Pain was managed with 
acetaminophen, tramadol and morphine prn.  The patient tolerated 
a regular diet. After 24 hours, the patient was started on 
subcutaneous heparin.  She worked with Physical Therapy and it 
was recommended that she be discharged home. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Diltiazem Extended-Release 180 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. BuPROPion (Sustained Release) 450 mg PO DAILY 
6. FLUoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stool   
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
4.  TraMADol ___ mg PO Q6H:PRN Pain - Moderate 
Take lowest effective dose. Patient may request partial fill.  
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  BuPROPion (Sustained Release) 450 mg PO DAILY  
7.  Diltiazem Extended-Release 180 mg PO DAILY  
8.  FLUoxetine 40 mg PO DAILY  
9.  Levothyroxine Sodium 75 mcg PO DAILY  
10.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Small subarachnoid hemorrhage
-Left proximal humerus fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after 
a fall and sustained a small internal head bleed and a left 
humerus (arm) fracture.  You were seen by Neurosurgery for your 
head injury, which was stable, and no intervention was 
necessary.  The Orthopedic surgery service evaluated your left 
arm fracture, and it was recommended that you be non-weight 
bearing on the left arm, wear a sling for comfort and you may 
perform pendulum motions of the left shoulder, perform range of 
motion as tolerated at the elbow, wrist, and the fingers.  You 
have worked with Physical Therapy and you are ready to be 
discharged home to continue your recovery.  Please note the 
following discharge instructions:

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
• Persistent nausea or vomiting.
• Increasing confusion, drowsiness or any change in alertness.
• Loss of memory.
• Dizziness or fainting.
• Trouble walking or staggering.
• Worsening of headache or headache feels different.
• Trouble speaking or slurred speech.
• Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
• A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
• Weakness or numbness of an arm or leg.
• Stiff neck or fever.
• Blurry vision, double vision or other problems with your 
eyesight.
• Bleeding or clear liquid drainage from your ears or nose.
• Very sleepy (more than expected) or hard to wake up.
• Unusual sounds in the ear.
• Any new or increased symptoms

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
 
Followup Instructions:
___